US04202981
7-Amino-2,4-dimethyl-1,8-naphthyridine
2,6-Diaminopyridine (43.6 g., 0.4 mole), 40.0 g (0.4 mole) of 2,4-pentanedione, 200 ml. of glacial acetic acid and 5 ml. of 96% sulfuric acid were mixed, then refluxed with stirring for 24 hours. The cold solution was added slowly with good stirring and ice bath cooling to 160 g of sodium hydroxide in enough water to make 600 ml. The brown solid, which crystallized, was filtered after the solution had been cooled overnight at 5°, washed twice with cold water and dried, 25.3 g., m.p. 125°-200°. This crude material was dissolved in 130 ml. of boiling 95% ethanol and the solution chilled overnight at -15°, 19.5 g. (28%), m.p. 215°-220°. This material was suitable for the following experiment.

reactant | 2,6-Diaminopyridine | 0.4 mole, 43.6 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | 2,4-pentanedione | 0.4 mole, 40.0 g | CC(CC(C)=O)=O | C5H8O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 160 g | [OH-].[Na+]
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-Amino-2,4-dimethyl-1,8-naphthyridine | NC1=CC=C2C(=CC(=NC2=N1)C)C | C10H11N3
